US06645993B2
tert-Butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoate
A solution of ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 27) (4.70 g, 11.9 mmol) in ethanol (80 ml) was treated with methylamine (33% w/v in ethanol, 12.0 ml, 96.0 mmol) and the solution was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane: ethyl acetate (9:1) gradually changing to dichloromethane:ethyl acetate (8:2) to afford the title compound as a pale yellow oil which crystallised on standing (4.23 g).

reactant | ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 11.9 mmol, 4.70 g | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | methylamine | 96.0 mmol, 12.0 ml | CN | CH5N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)NC | C20H33N3O4
